US07625886B2
(R)-2-(4-methoxy-1,4′-bipiperidinyl-1′-yl)-1-(2-methoxy-7-methyl-1H-benzimidazol-5-ylmethyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
Prepared analogously to Example 7i from 90 mg (0.16 mmol) (R)-1-carboxy-2-(2-methoxy-7-methyl-1H-benzimidazol-5-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate and 55 mg (0.20 mmol) 4-methoxy-[1,4′]bipiperidinyl (used as the bis-hydrochloride salt), using 100 μL (0.72 mmol) triethylamine.

reactant | (R)-1-carboxy-2-(2-methoxy-7-methyl-1H-benzimidazol-5-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.16 mmol, 90 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC3=C(NC(=N3)OC)C(=C1)C)C(=O)O)C=CC=C2 | C27H31N5O6
reactant | 4-methoxy-[1,4′]bipiperidinyl | 0.20 mmol, 55 mg | COC1CCN(CC1)C1CCNCC1 | C11H22N2O
reactant | triethylamine | 0.72 mmol, 100 μL | C(C)N(CC)CC | C6H15N
product | (R)-2-(4-methoxy-1,4′-bipiperidinyl-1′-yl)-1-(2-methoxy-7-methyl-1H-benzimidazol-5-ylmethyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)N1CCC(CC1)OC)CC1=CC3=C(NC(=N3)OC)C(=C1)C)C=CC=C2 | C38H51N7O6
